US07625903B2
A round-bottomed flask was charged with isatoic anhydride (5.0 g, 0.030 mol) and 40 mL water. Ethanolamine (2.21 mL, 0.036 mol) was added slowly to the reaction mixture. The reaction mixture was acidified with 1N HCl and extracted with EtOAc. The aqueous layer was basified with 6N NaOH and extracted with EtOAc. The EtOac layer was dried over Na2SO4, filtered, and concentrated to dryness to afford 2-amino-N-(2-hydroxyethyl)benzamide (3.86 g, 70%).

reactant | isatoic anhydride | 0.030 mol, 5.0 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | Ethanolamine | 0.036 mol, 2.21 mL | C(O)CN | C2H7NO
reactant | HCl | 1N | Cl | ClH
solvent | water | 40 mL | O | H2O
product | 2-amino-N-(2-hydroxyethyl)benzamide | 3.86 g, 70% | NC1=C(C(=O)NCCO)C=CC=C1 | C9H12N2O2
